US05843942
1-(2-Benzyloxy-5-bromophenyl)-ethanol (3.74 g) was dissolved in pyridine (15 mL) and cooled to -10° C. under argon. Mesyl chloride (0.95 mL) was added dropwise over ten minutes and the mixture stirred allowing to come to ambient temperature over seventeen hours. The mixture was diluted with ethyl acetate (100 mL) and then washed with hydrochloric acid (1M, 3×70 mL) until the organic phase tested to pH 1. The ethyl acetate fraction was then washed with saturated sodium hydrogen carbonate solution (50 mL) and dried (MgSO4). After removal of solvent the oily residue was purified by MPLC (eluting 75% dichloromethane, 25% hexane, silica) to give 1-(2-benzyloxy-5-bromophenyl)ethanol methanesulphonate which was used rapidly without further purification, yield 1.19 g.

reactant | 1-(2-Benzyloxy-5-bromophenyl)-ethanol | 3.74 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C(C)O | C15H15BrO2
reactant | Mesyl chloride | 0.95 mL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-benzyloxy-5-bromophenyl)ethanol methanesulphonate | CS(=O)(=O)OC(C)C1=C(C=CC(=C1)Br)OCC1=CC=CC=C1 | C16H17BrO4S
